US04859229
12.8 g of ethyl chloroformate are added while stirring to a solution of 20 g of 4-chloro-2-fluoro-5-isopropoxyaniline in 100 ml of methylene chloride at room temperature. 9.4 g of pyridine are subsequently added dropwise during 20 minutes at 20° C. while stirring and cooling. The reaction mixture is stirred for 20 minutes, washed three times with in each case 200 ml of a solution of 20 ml of 2N hydrochloric acid in 200 ml of water, dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. There is obtained ethyl N-(4-chloro-2-fluoro-5-isopropoxyphenyl)-carbamate, m.p. 89°-91° C.

reactant | ethyl chloroformate | 12.8 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-chloro-2-fluoro-5-isopropoxyaniline | 20 g | ClC1=CC(=C(N)C=C1OC(C)C)F | C9H11ClFNO
reactant | pyridine | 9.4 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl N-(4-chloro-2-fluoro-5-isopropoxyphenyl)-carbamate | ClC1=CC(=C(C=C1OC(C)C)NC(OCC)=O)F | C12H15ClFNO3
